US04099956
To a solution of 54.3 g of 2-(3-chloro-4-fluorophenyl)-4,4-dimethylsemicarbazide in 300 ml of benzene was added rapidly 40.5 g of 37% formaldehyde, followed by 240 g of Mg2SO4 at ambient temperature. After several days, an additional 40 g of 37% formaldehyde was added and the mixture was stirred for 18 hours. The resulting product was filtered and the filtrate was concentrated to dryness leaving an amber syrup which was purified by silica chromatography to yield 4.5 g of formaldehyde 2-(3-chloro-4-fluorophenyl)-4,4-dimethylsemicarbazone as a viscous oil.

reactant | 2-(3-chloro-4-fluorophenyl)-4,4-dimethylsemicarbazide | 54.3 g | ClC=1C=C(C=CC1F)N(N)C(=O)N(C)C | C9H11ClFN3O
reactant | formaldehyde | 40.5 g | C=O | CH2O
reactant | formaldehyde | 40 g | C=O | CH2O
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | formaldehyde 2-(3-chloro-4-fluorophenyl)-4,4-dimethylsemicarbazone | 4.5 g | ClC=1C=C(C=CC1F)N(N=C)C(=O)N(C)C | C10H11ClFN3O
